US07888350B2
1-(3,7-Bis-dimethylamino-phenothiazin-10-yl)-ethanone
Synthesis using methylhydrazine/Hunig's base in one pot. To a 5000 cm3 reactor vessel under an atmosphere of nitrogen was added methylthioninium chloride trihydrate (0.54 mol, 200 g) and acetonitrile (1000 cm3). Methylhydrazine (1.07 mol, 49.36 g) was added dropwise at 1.5 mL per minute. The temperature of the mixture increased to 32° C. and was stirred for 20 minutes. The yellow/green suspension had acetic anhydride (5.35 mol, 541 g) added and then Hunig's base (diisopropylethylamine) (1.55 mol, 200 g) was added. The mixture was heated at 90° C. for 2 hours. The cooled mixture was then poured carefully into ice water (2000 cm3) in ten 200 cm3 portions while stirring to give a precipitate. The precipitate was stirred for 45 minutes before it was filtered, washed with water (3×250 cm3), and air dried for 30 minutes. The crude material was crystallised from hot ethanol (2750 cm3) to yield the title compound (112.1 g, 64%) as a light grey solid. Mp 137° C.; vmax(KBr)/cm−1 2910 (CH), 2876 (CH), 2856 (CH), 2799 (CH), 1659 (C═O), 1596 (NO2), 1502 (NO2); δH (250 MHz; CDCl3) 2.16 (3H, s, CH3), 2.93 (12H, s, NCH3), 6.59-6.62 (2H, d, J 8.5, ArH), 6.69-6.71 (2H, d, J 2.75, ArH), 7.08-7.47 (2H, brd s, ArH); δC (62.9 MHz; CDCl3) 170.3 (C═O), 148.9 (ArC), 127.2 (ArC), 127.1 (ArC), 127.0 (ArC), 110.9 (ArC), 110.7 (ArC), 40.7 (NCH3), 22.9 (CH3); m/z (ES) 284.2 (100%, [M-OAc]+), 328.1 (15%, [M+H]+), 350.1 (41%, [M+Na]+).

reactant | methylhydrazine Hunig's base | CNN.CCN(C(C)C)C(C)C
reactant | methylthioninium chloride trihydrate | 0.54 mol, 200 g | O.O.O.[Cl-].CC=1[SH+]C=CC=CC=CC1
reactant | Methylhydrazine | 1.07 mol, 49.36 g | CNN | CH6N2
reactant | acetic anhydride | 5.35 mol, 541 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hunig's base | 1.55 mol, 200 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 1000 cm3 | C(C)#N | C2H3N
product | 1-(3,7-Bis-dimethylamino-phenothiazin-10-yl)-ethanone | 112.1 g, 64% | CN(C=1C=CC=2N(C3=CC=C(C=C3SC2C1)N(C)C)C(C)=O)C | C18H21N3OS
